US08476297B2
2-Bromophenylacetone (4.45000 g, 21 mmol) was dissolved in 10 mL MeOH and trimethyl orthoformate (11 mL, 104 mmol) and hydrogen chloride, 4.0M solution in 1,4-dioxane (5.2 mL, 21 mmol) were added. The mixture was stirred for 1 h and neutralized carefully with DIEA (pH 7). The mixture was evaporated and filtered through a plug of silica providing 1-bromo-2-(2,2-dimethoxypropyl)benzene as a colorless liquid.

reactant | 2-Bromophenylacetone | 21 mmol, 4.45000 g | BrC1=C(C=CC=C1)CC(C)=O | C9H9BrO
reactant | trimethyl orthoformate | 104 mmol, 11 mL | C(OC)(OC)OC | C4H10O3
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 21 mmol, 5.2 mL | O1CCOCC1 | C4H8O2
reactant | DIEA | pH 7 | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 10 mL | CO | CH4O
product | 1-bromo-2-(2,2-dimethoxypropyl)benzene | BrC1=C(C=CC=C1)CC(C)(OC)OC | C11H15BrO2
